Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left Knee Pain and Swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with a history of HIV (last CD4 in the 500s) and
history of LLE cellulitis who presents with left knee pain and
swelling. 

Mr. ___ notes hitting his left knee at the gym on ___ with 
a
bar, which lead to subsequent abrasion. His knee was initially a
little swollen and erythematous on ___ and ___, which
became progressively worse in the two days prior to admission. 
On
the day of admission, he noted new erythema, swelling, and
difficulty weight-bearing and moving. Pain was made worse with
flexion and extension. He notes that the pain extends up to the
groin, and down to mid-calf. He does endorse chills. He denies
fevers, chest pain, shortness of breath, nausea, vomiting,
headache, changes in vision, abdominal discomfort, change in 
BMs.
He notes he had been taking his HIV medications daily. 

Mr. ___ mentions that he has had cellulitis of the left lower
extremity twice in the past. Once was earlier this year, and he
was at the time treated with a 10 day course of Bactrim. First
episode was in ___, and he does not recall the 
details
of that treatment course. He notes this is the worst pain he has
had with any cellulitis. 

In the Emergency Department, X-Ray showed moderate soft tissue
thickening anterior to patellar tendon. CT showed subcutaneous
phlegmonous changes extending from the anterolateral knee left
lateral lower calf, with no drainable fluid collection. Labs 
were
unremarkable with exception of mildly elevated CRP (34.6). Pain
was initially treated with IV Dilaudid, and later transitioned 
to
PO Oxycodone. He was initiated on Vancomycin and Cefazolin for
empiric coverage. He was seen by the Orthopedic Surgery team, 
who
felt that his imaging and exam findings were consistent with
superficial cellulitis rather than a septic arthritis. 

Vitals on transfer: Pain 10 T 99.1 HR 92 BP 107/69 RR 17 O2 97%
Ra

Upon arrival to the floor, he endorses the above history. He was
initially in excruciating pain due to the need to ambulate to go
to the bathroom, but was able to become more comfortable with IV
Dilaudid. He notes that the aching baseline pain is not as
profound, but the stinging pain at the wound is causing him the
worst discomfort.  

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.
 
Past Medical History:
HIV 
 
Social History:
___
Family History:
Non contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 1617)
    Temp: 99.1 (Tm 99.1), BP: 107/69, HR: 92, RR: 17, O2 sat:
97%, O2 delivery: Ra  
GENERAL: Alert and interactive. In significant discomfort
initially, though becomes much more subdued after administration
of IV Dilaudid
EYES: NCAT. PERRL, EOMI. Sclera anicteric and without injection.
ENT: MMM. No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender.
MSK: No spinous process tenderness. Erythema and edema inferior
to left knee, anterior to patella. Pustule present anterior to
patella. No crepitus. Pain with active and passive flexion
extension of knee. R knee without erythema or edema, normal ROM.
No discomfort with dorsi/plantarflexion. 
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AOx3. CN2-12 grossly intact
PSYCH: appropriate mood and affect, in significant pain

DISCHARGE EXAM
===============
VSS
GENERAL: Alert and interactive. In significant discomfort this 
AM
writhing and screaming in pain. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender.
MSK:  Erythema and edema inferior to left knee, anterior to 
patella.  R knee without erythema or edema, normal ROM. No 
discomfort with dorsi/plantarflexion. 
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AOx3. CN2-12 grossly intact
PSYCH: appropriate mood and affect, in significant pain

 
Pertinent Results:
IMAGING STUDIES
==============
___ Tib/Fib X-Ray
IMPRESSION: 
Moderate soft tissue thickening anterior to the patellar tendon. 

No radiopaque foreign body.  No patella ___ to suggest patellar
tendon rupture. Trace edema within the ___ fat pad.  No 
large
suprapatellar joint effusion.  No displaced fracture.  No foci 
of
subcutaneous air.

___ CT LLE
IMPRESSION:
1. Subcutaneous phlegmonous changes extending from the
anterolateral knee left lateral lower calf.  No drainable fluid
collection.
2. Small fluid collection tracking along the vastus lateralis
tendon into the joint space.

US EXTREMITY LIMITED SOFT TISSUE LEFTStudy Date of ___ 
9:52 AM
 Subcutaneous edema overlying the left anterior and lateral knee 
without
evidence of a drainable focal fluid collection.

ADMISSION LABS
===============

___ 08:42PM BLOOD WBC-9.8 RBC-3.77* Hgb-12.5* Hct-36.6* 
MCV-97 MCH-33.2* MCHC-34.2 RDW-12.3 RDWSD-44.0 Plt ___
___ 08:42PM BLOOD Neuts-65.4 ___ Monos-10.0 Eos-1.0 
Baso-0.2 Im ___ AbsNeut-6.43* AbsLymp-2.27 AbsMono-0.98* 
AbsEos-0.10 AbsBaso-0.02
___ 08:42PM BLOOD Glucose-83 UreaN-18 Creat-0.7 Na-140 
K-4.1 Cl-105 HCO3-24 AnGap-11
___ 08:42PM BLOOD CRP-34.6*
___ 03:23AM BLOOD Lactate-1.0

DISCHARGE LABS
==============

___ 06:50AM BLOOD WBC-5.6 RBC-3.82* Hgb-12.5* Hct-37.5* 
MCV-98 MCH-32.7* MCHC-33.3 RDW-12.5 RDWSD-44.9 Plt ___
___ 06:44AM BLOOD Neuts-71.4* Lymphs-18.0* Monos-9.3 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-7.29* AbsLymp-1.84 
AbsMono-0.95* AbsEos-0.08 AbsBaso-0.02
___ 06:44AM BLOOD  WBC-10.2* Lymph-18* Abs ___ CD3%-80 
Abs CD3-1471 CD4%-28 Abs CD4-518 CD8%-49 Abs CD8-900* 
CD4/CD8-0.58*
___ 06:50AM BLOOD Glucose-94 UreaN-13 Creat-0.7 Na-143 
K-4.4 Cl-104 HCO3-28 AnGap-11
___ 06:50AM BLOOD Calcium-8.9 Phos-4.5 Mg-2.3
___ 03:33PM BLOOD Trep Ab-POS*

 
 
Brief Hospital Course:
___ man with a history of HIV (last CD4 in the 500s) and 
istory of LLE cellulitis who presented with LLE cellulitis.

ACUTE ISSUES:
=============
#LLE Cellulitis
#Left knee traumatic bursitis
Mr. ___ presented to the ED with a three day history of 
erythema, warmth, and tenderness of the LLE. Differential
diagnosis included cellulitis (history of cellulitis, recent 
trauma to the knee) vs septic arthritis (less likely given lack 
of join effusion or inflammation within the joint itself) vs 
necrotizing fasciitis (less likely given no crepitus and 
non-toxic appearing patient). Neurovascularly intact, decreasing 
suspicion for compartment syndrome. Given his recurrences, he 
was admitted and treated with antibiotics. Started with opioids 
for pain and vancomycin and cefazolin for infection, then 
transitioned to cephalex and Bactrim for infection and 
ibuprofen/Tylenol for pain on ___. Blood cultures x2 No 
growth to date, chlamydia and gonorrhea test pending. Ortho 
consulted, recommended continued local wound care. Leukocytosis 
resolved on discharge.

#Substance Use Disorder
Patient has a history of substance use disorder, and endorses 
last use of methamphetamines five days prior to admission. He 
notes that he also occasionally takes GHB. Advised that pt needs 
to avoid substance use and offered social work resources. Pt was 
started on CIWA and subsequently discontinued on discharge. Pt 
was stable while in house.

CHRONIC ISSUES:
===============
#HIV: Continued home anti-retroviral therapy. HIV Viral Load, CD 
4 Count pending on discharge.
#CODE: FCp

TRANSITIONAL ISSUES
=======================
[] Chlamydia trachomatis/Neisseria gonorrhoeae RNA, TMA PENDING
[] HIV VL AND CD4 PENDING
[] Pt will need to follow up with PCP ___ ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Odefsey (emtricitab-rilpivir-tenofo ala) 200-25-25 mg oral 
DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
Do not take more than 4 tablets a day. 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Cephalexin 500 mg PO QID 
RX *cephalexin 500 mg 1 tablet by mouth four times a day Disp 
#*38 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
Please take this medication with meals. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0 
4.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 2 
tablet(s) by mouth twice a day Disp #*38 Tablet Refills:*0 
5.  Odefsey (emtricitab-rilpivir-tenofo ala) 200-25-25 mg oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#LLE Cellulitis
#Left knee traumatic bursitis
#Substance Use Disorder
#HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ was a privilege caring for you at ___.
  
WHY WAS I IN THE HOSPITAL?  
- You were here for Left Knee Pain and Swelling
  
WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had lab tests and imaging studies done.
- You were diagnosed of cellulitis and left knee traumatic 
bursitis, you were treated with antibiotics.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue to take all of your medications and follow-up 
with your appointments as listed below.  

We wish you the best! 
 
Sincerely,  
Your ___ Team 
 
Followup Instructions:
___